US05534529
2-t-Butyl-5-hydroxymethyl-1-nitrobenzene
10 ml of a tetrahydrofuran solution containing 3.12 g (28.8 mol) of ethyl chloroformate were added dropwise over a period of 10 minutes to 60 ml of a tetrahydrofuran solution containing 6.0 g (26.9 mmol) of 4-t-butyl-3-nitrobenzoic acid and 3.12 g (30.9 mmol) of triethylamine, whilst ice-cooling. The reaction solution was stirred for 45 minutes at this temperature, after which it was filtered using a Celite filter aid. The precipitate was washed with tetrahydrofuran, and the filtrate and the washings were combined. The combined solution was then added dropwise to a mixed solution which was composed of 40 ml of tetrahydrofuran and 40 ml of water containing 3.76 g (9.95 mmol) of sodium borohydride, over a period of 25 minutes, on an ice bath. The reaction mixture was then stirred for 2 hours at the temperature of the ice bath, after which it was condensed by evaporation under reduced pressure. As much as possible of the tetrahydrofuran was then removed by distillation under reduced pressure, and the residue was distributed between diethyl ether and water. The product was extracted from the aqueous layer with diethyl ether. The organic layers were combined and washed twice with water and then once with a saturated aqueous solution of sodium chloride. The solvent was then removed by distillation under reduced pressure. The resulting residue was subjected to column chromatography through 100 g of silica gel. Elution with mixtures of ethyl acetate and hexane ranging from 20:80 to 30:70 by volume afforded 5.24 g (yield 93%) of the title compound as an oily substance.

reactant | ethyl chloroformate | 28.8 mol, 3.12 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-t-butyl-3-nitrobenzoic acid | 26.9 mmol, 6.0 g | C(C)(C)(C)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C11H13NO4
reactant | triethylamine | 30.9 mmol, 3.12 g | C(C)N(CC)CC | C6H15N
reactant | water | 9.95 mmol, 40 ml, 3.76 g | O | H2O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-t-Butyl-5-hydroxymethyl-1-nitrobenzene | 5.24 g, yield 93% | C(C)(C)(C)C1=C(C=C(C=C1)CO)[N+](=O)[O-] | C11H15NO3
